US05332847
The suspension of 21-bromo-17α-hydroxy-16β-methyl-4-pregnene-3,11,20-trione is heated under agitation with 61.74 g of potassium acetate and for 90 minutes to 50° C. Then the methanol is extensively removed by distillation, the reaction mixture is allowed to cool down to room temperature, the reaction product is suctioned off, washed with water, and dried under vacuum at 50° C., thus obtaining 42.9 g of 21-acetoxy-17α-hydroxy-16β-methyl-4-pregnene-3,11,20-trione, mp 214°-219° C. Yield=92% of theory. Product purity 93.8%.

reactant | 21-bromo-17α-hydroxy-16β-methyl-4-pregnene-3,11,20-trione | BrCC([C@]1([C@H](C[C@H]2[C@@H]3CCC4=CC(CC[C@]4(C)[C@H]3C(C[C@]12C)=O)=O)C)O)=O | C22H29BrO4
reactant | potassium acetate | 61.74 g | C(C)(=O)[O-].[K+]
product | 21-acetoxy-17α-hydroxy-16β-methyl-4-pregnene-3,11,20-trione | 42.9 g, Yield=92% | C(C)(=O)OCC([C@]1([C@H](C[C@H]2[C@@H]3CCC4=CC(CC[C@]4(C)[C@H]3C(C[C@]12C)=O)=O)C)O)=O | C24H32O6
